US07425654B2
(3) Synthesis of 2-(N,N-diphenylamino)-7-bromo-9,9-dimethylfluorene
Charged under Ar atmosphere were 2-bromo-7-iodo-9,9-dimethylfluorene 20.0 g, diphenylamine 8.46 g, copper iodide 0.476 g, N,N′-dimethylethylene-diamine 0.441 g, sodium t-butoxide 7.21 g and xylene 50 ml, and the mixture was refluxed for 24 hours under heating. After cooled down to room temperature, the mixture was extracted with toluene, and the insoluble matter was filtered. The filtrate was concentrated, and then the concentrate was refined by silica gel chromatography to obtain 15.4 g of a yellow solid matter of 2-(N,N-diphenylamino)-7-bromo-9,9-dimethylfluorene.

reactant | 2-bromo-7-iodo-9,9-dimethylfluorene | 20.0 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)I)(C)C | C15H12BrI
reactant | diphenylamine | 8.46 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | N,N′-dimethylethylene-diamine | 0.441 g | CNCCNC | C4H12N2
reactant | sodium t-butoxide | 7.21 g | CC(C)([O-])C.[Na+]
catalyst | copper iodide | 0.476 g | [Cu](I)I
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(N,N-diphenylamino)-7-bromo-9,9-dimethylfluorene | 15.4 g | C1(=CC=CC=C1)N(C1=CC=CC=C1)C1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(C)C | C27H22BrN
